US08633313B2
To a solution of 2-(1-(7-fluoro-2-(2-(methylsulfonyl)phenyl)-1,5-naphthyridin-3-yl)ethyl) isoindoline-1,3-dione (1.2 g, 2.52 mmol in EtOH (40 mL) was added hydrazine hydrate (0.8 mL, 16.4 mmol) at 25° C. The reaction mixture was stirred for overnight at 25° C. The reaction mixture was acidified with 5 N hydrochloric acid and concentrated in vacuo. Water was added to residue and extracted with EtOAc. Aq. layer was basified with aq. NaOH solution and extracted with EtOAc. The organic layer was dried over Na2SO4 and concentrated in vacuo to give 1-(7-fluoro-2-(2-(methylsulfonyl)phenyl)-1,5-naphthyridin-3-yl)ethanamine: LC-MS (ESI) m/z 345.96 [M+H]+. It was carried on crude for next step.

reactant | 2-(1-(7-fluoro-2-(2-(methylsulfonyl)phenyl)-1,5-naphthyridin-3-yl)ethyl) isoindoline-1,3-dione | FC1=CN=C2C=C(C(=NC2=C1)C1=C(C=CC=C1)S(=O)(=O)C)C(C)N1C(C2=CC=CC=C2C1=O)=O | C25H18FN3O4S
reactant | hydrazine hydrate | 16.4 mmol, 0.8 mL | O.NN
reactant | hydrochloric acid | 5 N | Cl | ClH
solvent | EtOH | 40 mL | CCO | C2H6O
product | 1-(7-fluoro-2-(2-(methylsulfonyl)phenyl)-1,5-naphthyridin-3-yl)ethanamine | FC1=CN=C2C=C(C(=NC2=C1)C1=C(C=CC=C1)S(=O)(=O)C)C(C)N | C17H16FN3O2S
